US04761173
N-(2,6 -Dichlorophenyl)-4,6-dimethyl-2-pyrimidinesulfonamide
To a solution of 2,6-dichloroaniline (1.0 g, 6.2 mmol) in dimethoxyethane (25 mL) was added butyl lithium (3.9 mL, 6.24 mmol). After 15 minutes, the solution was cooled to -30° and 4,6-dimethyl-2-pyrimidinesulfonyl fluoride (1.18 g, 6.2 mmol) was added. The mixture stirred for 12 hours with warming to 25° C. The mixture was concentrated and the residue was treated with 1N NaOH (2 mL) and extracted with ethyl acetate. The aqueous layer was acidified with 1N HCl and a solid was collected, m.p. 261°-263° C. NMR (90 MHZ) D6 -Acetone: δ 7.5 (m, 4H) and 2.5 (s, 6H).

reactant | 2,6-dichloroaniline | 6.2 mmol, 1.0 g | ClC1=C(N)C(=CC=C1)Cl | C6H5Cl2N
reactant | butyl lithium | 6.24 mmol, 3.9 mL | C(CCC)[Li]
reactant | 4,6-dimethyl-2-pyrimidinesulfonyl fluoride | 6.2 mmol, 1.18 g | CC1=NC(=NC(=C1)C)S(=O)(=O)F | C6H7FN2O2S
solvent | dimethoxyethane | 25 mL | C(OC)COC | C4H10O2
product | N-(2,6 -Dichlorophenyl)-4,6-dimethyl-2-pyrimidinesulfonamide | ClC1=C(C(=CC=C1)Cl)NS(=O)(=O)C1=NC(=CC(=N1)C)C | C12H11Cl2N3O2S
